US05244889
(3R)-6-Carboxy-5-oxo-1-thia-4-azacyclotridecane -3-carboxylic acid (1.71 g, 5.64 mmol) is dissolved in pyridine (20 ml) and piperidine (0.096 g, 1.13 mmol) is added followed by paraformaldehyde (0.25 g, 8.46 mmol). The mixture is heated to 65° C. and stirred for 2 hours. The mixture is cooled to room temperature, poured into 6N hydrochloric acid (100 ml) and extracted with ethyl acetate (2×100 ml). The combined extracts are washed with brine (1×100 ml), dried (MgSO4) and solvent is evaporated to give (3R)-6-methylidene-5-oxo-1-thia-4-azacyclotridecane-3-carboxylic acid, m.p. 184°-186° C.

reactant | (3R)-6-Carboxy-5-oxo-1-thia-4-azacyclotridecane -3-carboxylic acid | 5.64 mmol, 1.71 g | C(=O)(O)C1C(N[C@@H](CSCCCCCCC1)C(=O)O)=O | C13H21NO5S
reactant | piperidine | 1.13 mmol, 0.096 g | N1CCCCC1 | C5H11N
reactant | paraformaldehyde | 8.46 mmol, 0.25 g | C=O | CH2O
reactant | hydrochloric acid | 6N, 100 ml | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | (3R)-6-methylidene-5-oxo-1-thia-4-azacyclotridecane-3-carboxylic acid | C=C1C(N[C@@H](CSCCCCCCC1)C(=O)O)=O | C13H21NO3S
